US04963542
In 100 ml of N,N-dimethylformamide there were suspended 19.7 g of benzhydryl 2-acetoxyimino-2-(2-imino-4-thiazolin-4-yl)acetate, followed by the addition of 6.02 g of triethylamine. Under ice-cooling and stirring, 4.98 ml of chloroacetyl chloride were added dropwise. The mixture was further stirred at that temperature for 10 minutes and, then, at room temperature for 20 minutes. Thereafter, 1.50 ml of chloroacetyl chloride was added dropwise and the mixture were stirred for 20 minutes. The reaction mixture was poured into a solution of 4.4 g of sodium hydrogen carbonate in 200 ml of water and extracted with 500 ml of ethyl acetate in three installments. The ethyl acetate layers were pooled, washed twice with 100 ml of a 1e aqueous solution of sodium hydrogen carbonate and further washed with a saturated aqueous solution of sodium chloride. The drying with magnesium sulfate and the decolorization with activated carbon were concurrently carried out and, after filtering, the solvent was distilled off. To the residue there were added 20 ml of ethyl acetate and the mixture was allowed to stand. The resultant crystals were recovered by filtration and dried. By the above procedure there were obtained 12.7 g of benzhydryl 2-acetoxyimino-2-(2-chloroacetylimino-4-thiazolin-4-yl)acetate (syn-isomer). This product contained a small amount of the anti-isomer, which was removed by the following procedure.

reactant | benzhydryl 2-acetoxyimino-2-(2-imino-4-thiazolin-4-yl)acetate | 19.7 g | C(C)(=O)ON=C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C=1NC(SC1)=N | C20H17N3O4S
reactant | triethylamine | 6.02 g | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 4.98 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | chloroacetyl chloride | 1.50 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | sodium hydrogen carbonate | 4.4 g | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | benzhydryl 2-acetoxyimino-2-(2-chloroacetylimino-4-thiazolin-4-yl)acetate | 12.7 g | C(C)(=O)ON=C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C=1NC(SC1)=NC(CCl)=O | C22H18ClN3O5S
